US04427603
609 g sulfur trioxide-dioxane addition product, which contained 143.9 g (1.8 mols) sulfur trioxide and was dissolved in 400 g dichloroethane, was reacted with 137.1 g (1.85 mols) isobutanol, and a solution of sulfuric acid monoisobutylester in dichloroethane was obtained. 66 g of this solution, which contained 49 g (0.32 mol) sulfuric acid monoisobutylester, was added dropwise within 1 hour to 59.5 g (0.33 mol) dichlorophenylphosphane. The whole was initially heated for a short while to 30° C. and then cooled with water to maintain the reaction temperature at 20° C. Next, the reaction mixture was stirred for 4 hours at room temperature, stripped under a vacuum of 1 mm mercury and at a temperature of up to 30° C. 79 g of a brown, medium-viscous crude product was obtained. 31P-NMR-spectroscopy indicated that 41% of the phosphorus used was present in the crude product in the form of benzenephosphonic acid isobutylester chloride.

reactant | sulfur trioxide dioxane | 609 g | S(=O)(=O)=O.O1CCOCC1
reactant | sulfur trioxide | 1.8 mols, 143.9 g | S(=O)(=O)=O | O3S
reactant | isobutanol | 1.85 mols, 137.1 g | C(C(C)C)O | C4H10O
solvent | dichloroethane | 400 g | ClC(C)Cl | C2H4Cl2
product | sulfuric acid monoisobutylester | C(C(C)C)OS(O)(=O)=O | C4H10O4S
